US07423036B2
a) 4-trifluoromethyl-benzoic acid N′-(1-imino-ethyl)-hydrazide
4.78 g (23.4 mmol) 4-(trifluoromethyl)benzoic acid hydrazide and 5.21 g (42.1 mmol) ethyl acetimidate hydrochloride are reacted as described for intermediate product 1a).

reactant | 4-(trifluoromethyl)benzoic acid hydrazide | 23.4 mmol, 4.78 g | FC(C1=CC=C(C(=O)NN)C=C1)(F)F | C8H7F3N2O
reactant | ethyl acetimidate hydrochloride | 42.1 mmol, 5.21 g | Cl.C(C)(OCC)=N
product | 4-trifluoromethyl-benzoic acid N′-(1-imino-ethyl)-hydrazide | N=C(C)NNC(C1=CC=C(C=C1)C(F)(F)F)=O | C10H10F3N3O
